US09428511B2
To a solution of ethyl 1H-imidazole-2-carboxylate (2.00 g, 14.27 mmol) in DMF (40 mL) at 0° C. was added sodium hydride (0.714 g, 17.84 mmol, 60% wt). The reaction solution was stirred at room temperature for 120 min and then was cooled to 0° C. A suspension of (aminooxy)diphenylphosphine oxide [4.66 g, 19.98 mmol, prepared from diphenylphosphinic chloride following a known procedure (Org. Lett., 351-353 (2007))], in DMF (70 ml) was added. After 10 min, the ice bath was removed. The reaction mixture became viscous and stirred at room temperature for 3 h. The reaction was quenched with water until it became a clear solution, and concentrated to dryness under reduced pressure. The crude product was suspended in EtOAc (400 ml) with stirring for 30 min and filtered. The filtrate was concentrated to give a pale yellow viscous solid, 2.6 g. The crude product was purified via silica gel column (Isco prep: 0-5% MeOH-DCM over 20 minutes) to afford ethyl 1-amino-1H-imidazole-2-carboxylate (1.99 g, 90% yield) as a white solid. 1H NMR (400 MHz, MeOD) δ 7.35 (d, J=1.3 Hz, 1H), 7.11 (s, 1H), 4.37 (q, J=7.3 Hz, 2H), 1.50 (br. s., 9H), 1.38 (t, J=7.0 Hz, 4H). ESI-MS (analytical LCMS Method A): m/z 156.0 ([M+H]+).

reactant | ethyl 1H-imidazole-2-carboxylate | 14.27 mmol, 2.00 g | N1C(=NC=C1)C(=O)OCC | C6H8N2O2
reactant | sodium hydride | 17.84 mmol, 0.714 g | [H-].[Na+]
reactant | (aminooxy)diphenylphosphine oxide | NOP(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C12H12NO2P
reactant | diphenylphosphinic chloride | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | ethyl 1-amino-1H-imidazole-2-carboxylate | 1.99 g, 90% yield | NN1C(=NC=C1)C(=O)OCC | C6H9N3O2
